Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I am here to sleep."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year-old female with a history of a psychotic 
disorder with one prior hospitalization in ___ who was brought 
in by ___ police on a ___ in the 
setting of increased confusion. 
. 
In the ED, it was noted that history limited by a tangential, 
confused mental status.  On interview with her, Ms. ___ reports 
she met with a staff member at ___ today and that, 
during this meeting, she wanted to use the restroom to "take a 
break" because the staff member was "stressing her out." Of 
note, she claims that speaking in ___ is a stress to her 
because she finds it difficult to express herself, which was a 
factor to her "being stressed out." She went to the bathroom to 
escape, and then "got distracted" by a mindfulness activity 
going on in the student chapel and a nice person that reminded 
her of her mom. She noted that she cried loudly during this 
meeting because the person was so nice. She then attempted to go 
back to the office where she had been in a meeting, but the 
person she was meeting with was no longer there as she had been 
gone for about an hour and a half, she was then found by police 
and was sent to the ED.
. 
She says that things have been "OK but not great" in the big 
picture lately. The intake note in the ED notes she recently had 
to file a report with the police and meet with a ___ 
administrator because of recent sexual harassment issues. She is 
currently living with a male roommate who she feels has been 
trying to take advantage of her, including asking her to take 
showers with him, which she does not want to do. 
. 
She admits that she "was psychotic" ___ years ago when she was 
last admitted to ___. After her hospitalization, she 
returned to ___ where she took Abilify, but stopped ___ months 
ago. She did not like taking the medication because made her 
feel tired and it "went against her integrity." She also does 
not feel medications were explained to her and that she felt 
forced into medication usage by her father and that she did not 
feel better while taking it. She stopped taking the Abilify 
after she returned to the ___.  She denies SI, HI, or 
AVH. She also denies symptoms of paranoia or thought 
implantation.
. 
COLLATERAL: Taken from ED Consult Note: ___ on-call: 
___ counseling did not meet with her directly today, 
they were involved in the sectioning process when a school 
administrator contacted them with concerns for her mental 
status. Specifically, the administrator found it difficult to 
have any sort of conversation with Ms. ___, who essentially did 
not answer any of the questions asked of her, even 
straightforward direct simple questions. It was felt that Ms. 
___ was acting in accordance with her prior episode of
psychosis. They confirmed the story told to me by Ms. ___, that 
the administrator has been meeting with her and she requested to 
go to the bathroom, left all of her things including coat and 
phone, but not but did not return for approximately 1 hour.
. 
Father, ___ (INTERNATIONAL NUMBER ___: Mr. 
___ says that he had come to ___ around the time of the 
patient's hospitalization ___ years prior. He felt that she was 
not doing very well, but was not able to convince her to come 
back to ___ with him at that time. She did eventually come
back to ___ and was convinced to take medications for a few 
months which she reports had significant benefit and that her 
symptoms resolved over that period of time. The patient then 
worked engaging for a few months and seemed to have remained 
stable, so she was allowed to return back to ___. He reports 
that, around the time of her prior hospitalization, history and 
reported having been raped by the boyfriend of one of her 
friends that she subsequently developed paranoia around other, 
nonrelated aspects of her life in ___. However, the patient 
was not able to remember the full name of this person was in the 
midst of her psychotic break and was actually brought to ___ 
___ by the police while they were 
conducting the interview of her around this event. He says that, 
___ years ago, she was living alone in an apartment he had 
purchased for her. Was not clear whether her living situation 
since then had changed or whether he knew that she was living 
with a roommate at this time.

 
Past Medical History:
Past Medical History: Denies
. 
Past Psychiatric History:
- Diagnoses: psychosis 
- Hospitalizations: At least one prior on Deaconess 4 in ___, her father reports at least one other hospitalization in 
___ on an unlocked unit 
- Current treaters and treatment: None 
- Medication and ECT trials: Abilify, per father with good 
response
- Self-injury: Denies
- Harm to others: Denies
- Access to weapons: Denies
 
Social History:
___
Family History:
Mother with postpartum depression, resolved
 
Physical Exam:
  Neurological:
    *station and gait: Normal station and normal gait
    *tone and strength: ___ UE and ___ strength
    cranial nerves: ___ intact
    abnormal movements: No chorea, tremor, or EPS noted
    frontal release: not tested
  *Appearance:wearing hospital gown, well-kept, good hygiene
  Behavior: Cooperative and engaged in interview, occasional
blank stares coupled with periods of good eye-contact, 
frequently
uses phone despite redirection
  *Mood and Affect: Mood- "ok", affect appears anxious and 
easily
distracted
*Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
Tangential and easily distracted by cell phone and thoughts of
boyfriend, occasionally responds inappropriately to questions, 
*Thought Content: Denies SI/HI/AVH. Denies thoughts of paranoia
or implanted thoughts. Perseverated on confusion by ___
culture and system
  *Judgment and Insight: Limited/limited
 
 Cognition:
    *Attention, *orientation, and executive function: Attends to
interview, though easily distracted. Able to list days of week
backwards beginning with ___. A&O x3, though day of month off
by one week.
    *Memory: Intact to recent and remote events. Remembers three
words without prompting
   *Fund of knowledge: within normal limits
    Calculations: Able to calculate 12+5, ___ accurately. Says
she cannot understand ___ money to calculate    
Abstraction: Able to say that "don't judge a book by its cover"
means "we should not judge others by appearance" without
prompting. Able to describe similarities of apple and orange as
fruits; bicycle and train as transportation; watch and ruler as
"I don't use a watch... personal belongings?"
   Visuospatial: Grossly intact
    *Speech: Occasional pauses in speech to word search, normal
volume, full variation in tone. 
    *Language: Highly proficient ___ speaker, though says 
she
feels uncomfortable with ___.

 
Pertinent Results:
___ 07:31PM   GLUCOSE-126* UREA N-9 CREAT-0.7 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-23 ANION ___ 
05:33PM   ___ 05:33PM   ALT(SGPT)-7 AST(SGOT)-13 ALK 
PHOS-50 TOT BILI-0.9
___ 05:33PM   CHOLEST-182
___ 05:33PM   %HbA1c-4.7 eAG-88
___ 05:33PM   TRIGLYCER-41 HDL CHOL-81 CHOL/HDL-2.2 
LDL(CALC)-93
___ 05:33PM   TSH-0.96

___ 07:31PM   WBC-6.6 RBC-4.04 HGB-12.1 HCT-36.0 MCV-89 
MCH-30.0 MCHC-33.6 RDW-11.8 RDWSD-37.7
___ 07:31PM   NEUTS-77.4* LYMPHS-17.4* MONOS-3.6* EOS-0.8* 
BASOS-0.5 IM ___ AbsNeut-5.11 AbsLymp-1.15* AbsMono-0.24 
AbsEos-0.05 AbsBaso-0.03
___ 07:31PM   PLT COUNT-164

___ 10:25PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:31PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG

___ 10:25PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 10:25PM URINE  UCG-NEGATIVE
 
Brief Hospital Course:
This is a ___ year-old female with a history of prior psychiatric 
inpatient admission due to a psychotic episode ___ years ago 
presenting again to care in the setting of increased confusion 
and disorganization at ___. Presentation is 
concerning due to increased confusion and disorganized behavior 
at college in the setting of "feeling stressed out" which she 
attributed to confusion ___ customs and the ___ 
language, however, she appears to have been functioning well 
prior to recent months in the ___, having been a student abroad 
for several months after her return from ___.  
. 
On admission to ___, mental status examination was 
notable for disorganized thought process with numerous 
derailments, LOA, perseverative thought process. Thought process 
was also notably tangential and circumstantial with 
significantly poor insight and judgment into her presentation 
and condition. 
. 
Diagnostically, a stress-induced acute psychotic episode or 
trauma etiology is possible given her interpersonal stressors 
with her roommate and past history of psychosis following sexual 
harassment. In addition, however, a more ongoing problem, such 
as schizophrenia or schizophreniform disorder cannot be ruled 
out at this time, especially in light of her prior 
hospitalization and current symptoms in the absence of 
medication adherence following a period of time when her 
symptoms were improved on medication, according to collateral 
information from her father. However, a complete timeline of her 
symptoms cannot be completely understood due to the patient's 
limited insight into her mental health. 
.
#. Legal/Safety: Ms. ___ was admitted to ___ on a 
___ and declined a CV. Given ongoing significant concerns 
for inability to care for self in the absence of a reasonable 
discharge date given her limited supports in ___, a petition 
for 7&8b was filed. Of note, patient consistently denied 
suicidal ideation or thoughts of self harm during this admission 
and was in adequate behavioral control; she did not require 
physical or chemical restraints. Of note, her father arrived 
from ___ to ___, and agreed to take the patient home and 
have her seen by her psychiatrist in ___. Given the 
availability of this safe and reasonable discharge plan, I no 
longer felt that she met inpatient level of care and the patient 
was discharged prior to he court hearing. 
. 
# Psychiatric: Unspecified psychotic disorder as noted above
- Patient was encouraged to participate in individual, group, 
milieu therapy, though declined participation in many groups 
while inpatient.
- Patient took one dose of aripiprozole while inpatient, but 
ceased taking the medication after an episode of hypotension as 
well as a feeling that she did not want to take psychiatric 
medication.
- Patient was encouraged to take 20mg ziprasidone BID, though 
she refused the
medication and all other antipsychotic medications during her 
admission. 
- Given her disorganized and confused thought process, the 
patient was encouraged to withdraw from classes at ___ until her 
health could be stabilized further with increased social and 
structural supports, which she agreed to do. 
- Following a family meeting with her father on ___, she was 
discharged into his care with a plan to return to ___ with him 
to seek psychiatric care there with the support of her family. 
Her father reported he felt safe with this plan, as did the 
patient.
- As noted above, patient consistently denied SI or thoughts of 
self harm throughout her admission and was able to appropriately 
attend to her ADL's prior to discharge. 
. 
#. Medical: no acute medical issues during this admission 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
This patient is not taking any preadmission medications

 
Discharge Medications:
None. 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified psychotic disorder
 
Discharge Condition:
VS: T 97.9 PO BP 101 / 69 | HR 91 | RR 16 | SpO2 98% on RA
A/B: casually dressed, appears slightly younger than stated age, 
confrontational in interview, interrupting treatment team 
frequently, but redirectable, leaves room early in interview to 
get notebook so that she can take notes
S: regular rate and rhythm, normal volume
M: "Fine"
A: frustrated, but largely euthymic
TC: Denies SI/HI, AVH 
TP: intermittently disorganized and difficult to follow
C: awake, alert and oriented x3 
I/J: limited/limited
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___